US08183388B2
((S)-7-Cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester
((S)-7-Bromo-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester (50 g, 148.27 mmol), zinc cyanide (10.45 g, 88.99 mmoles), and palladium (6.31 g, 2.96 mmol) are combined in dimethylacetamide (500 mL). The resulting slurry is sparged with sub-surface nitrogen for 10 min. Then 1,1′-bis(diphenylphosphino)ferrocene (3.29 g, 5.93 mmol) is added and the reaction is sparged for another 10 min. Finally, zinc formate (2.3 g, 14.80 mmol) is added and the reaction is sparged again for 10 min. The reaction is then placed under a nitrogen sweep and heated up to 110° C. overnight. The heat is turned off. The reaction is cooled to 85° C. and 3-mercaptopropyl-functionalized silica gel (5 g, 10 wt %) is added. The mixture is stirred for 2 h while cooling to room temperature. The reaction mixture is then filtered and the solid is rinsed with DMAC (50 mL). To the stirring orange filtrate is added 0.3 M ethylenediaminetetraacetic acid tetrasodium salt in water (1000 mL) over 10 min. The resulting slurry is stirred at room temperature and is filtered. The solid is rinsed with 0.3 M ethylenediaminetetraacetic acid tetrasodium salt (250 mL) followed by water (250 mL). A light brown solid is collected and dried overnight in the vacuum oven to provide the product (42.44 g) in quantitative yield.

reactant | ((S)-7-Bromo-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester | 148.27 mmol, 50 g | C(C)(C)OC(N[C@H]1CC2=C(NC=3C=CC(=CC23)Br)C1)=O | C15H17BrN2O2
reactant | dimethylacetamide | 500 mL | CC(=O)N(C)C | C4H9NO
catalyst | zinc cyanide | 88.99 mmoles, 10.45 g | [C-]#N.[Zn+2].[C-]#N
catalyst | palladium | 2.96 mmol, 6.31 g | [Pd] | Pd
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 5.93 mmol, 3.29 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc formate | 14.80 mmol, 2.3 g | C(=O)[O-].[Zn+2].C(=O)[O-]
product | ((S)-7-Cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester | 42.44 g, quantitative yield | C(C)(C)OC(N[C@H]1CC2=C(NC=3C=CC(=CC23)C#N)C1)=O | C16H17N3O2
